US07452909B2
4-[1-(Pyridin-3-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine
The title compound, MS: m/e=309.3(M+H30), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 3-(bromomethyl)pyridine hydrobromide.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 3-(bromomethyl)pyridine hydrobromide | Br.BrCC=1C=NC=CC1
product | 4-[1-(Pyridin-3-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine | N1=CC(=CC=C1)CN1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C17H13ClN4
